US05093370
1,4-Bis(8-triethylammoniooctyl)benzene diiodide
To a solution of 223 mg of 1,4-bis(8-diethylaminooctyl)benzene in 1 ml of ethanol was added 0.40 ml of ethyl iodide, and the mixture was refluxed for 2 hours, concentrated under a reduced pressure and further dried under reduced pressure. To the residue was added 3 ml of ethyl acetate to solidify the residue. To the solid was added 3 ml of acetone and the whole was stirred for 10 minutes and filtered. The resulting crystal was washed with ethyl acetate and n-hexane, and dried under a reduced pressure to obtain 315 mg of the title compound as a yellow crystal.

reactant | 1,4-bis(8-diethylaminooctyl)benzene | 223 mg | C(C)N(CCCCCCCCC1=CC=C(C=C1)CCCCCCCCN(CC)CC)CC | C30H56N2
reactant | ethyl iodide | 0.40 ml | C(C)I | C2H5I
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | 1,4-Bis(8-triethylammoniooctyl)benzene diiodide | 315 mg | [I-].[I-].C(C)[N+](CCCCCCCCC1=CC=C(C=C1)CCCCCCCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C34H66N2.2HI/c1-7-35(8-2,9-3)31-23-19-15-13-17-21-25-33-27-29-34(30-28-33)26-22-18-14-16-20-24-32-36(10-4,11-5)12-6;;/h27-30H,7-26,31-32H2,1-6H3;2*1H/q+2;;/p-2
